US07410963B2
5-(3,5-Dichloro-phenyl)-1-methyl-7-phenyl-1,3-dihydro-benzo[e][1,4]diazepin-2-one
Prepared from 5-chloro-1-methyl-7-phenyl-1,3-dihydro-benzo[e][1,4]diazepin-2-one using the same method described for Example 9 and instead of using 3-formylbenzene boronic acid, we used 3,5-dichlorophenyl boronic acid. The title compound (34 mg) was obtained as a beige solid, (yield=22%).

reactant | 5-chloro-1-methyl-7-phenyl-1,3-dihydro-benzo[e][1,4]diazepin-2-one | ClC=1C2=C(N(C(CN1)=O)C)C=CC(=C2)C2=CC=CC=C2 | C16H13ClN2O
reactant | 3-formylbenzene boronic acid | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | 3,5-dichlorophenyl boronic acid | ClC=1C=C(C=C(C1)Cl)B(O)O | C6H5BCl2O2
product | 5-(3,5-Dichloro-phenyl)-1-methyl-7-phenyl-1,3-dihydro-benzo[e][1,4]diazepin-2-one | 34 mg, yield=22% | ClC=1C=C(C=C(C1)Cl)C=1C2=C(N(C(CN1)=O)C)C=CC(=C2)C2=CC=CC=C2 | C22H16Cl2N2O
